US07745641B2
In a similar manner to Step 4 of Example 16, 4-chloro-5-methoxymethoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (100 mg, 0.21 mmol) was dissolved in nitromethane (4 mL), and the solution was treated with trifluoroacetic acid (0.097 mL, 1.26 mmol) and triethylsilane (0.200 mL, 1.25 mmol). The mixture was added with water and saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 4-chloro-5-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (97.0 mg, yield 98%).

reactant | 4-chloro-5-methoxymethoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 0.21 mmol, 100 mg | ClC1=C2C(N(C(C2=C(C=C1OCOC)I)=O)C(C)(C1=CC=CC=C1)C)O | C19H19ClINO4
reactant | trifluoroacetic acid | 1.26 mmol, 0.097 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 1.25 mmol, 0.200 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | nitromethane | 4 mL | [N+](=O)([O-])C | CH3NO2
solvent | water | O | H2O
product | 4-chloro-5-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 97.0 mg, yield 98% | ClC1=C2CN(C(C2=C(C=C1O)I)=O)C(C)(C1=CC=CC=C1)C | C17H15ClINO2
